* Passive right-half connector bounce.
* There is no VCC rail crossing the connector.

Vgpio gpio_supply 0 DC 3.3
Rgpio gpio_supply gpio_pin 25
Rseries gpio_pin connector_left 330

Vcontact_ctl contact_ctl 0 PWL(
+ 0 0
+ 1m 0
+ 1.0001m 1
+ 1.1000m 1
+ 1.1001m 0
+ 1.2000m 0
+ 1.2001m 1
+ 1.2500m 1
+ 1.2501m 0
+ 1.3000m 0
+ 1.3001m 1
+ 5m 1)
Sconnector connector_left right_line contact_ctl 0 CONNECTOR_CONTACT
.model CONNECTOR_CONTACT SW(Ron=0.05 Roff=1e12 Vt=0.5 Vh=0.1)

Ccable right_line 0 300p
Rmeasurement right_line 0 100k

.tran 100n 3m
.meas tran connector_peak_a MAX par('-i(Vgpio)') FROM=1m TO=1.5m
.meas tran right_connected_v FIND v(right_line) AT=2m
.meas tran left_connected_v FIND v(connector_left) AT=2m

.end
